US04250340
m-Phenoxybenzyl chloride (218.5 g; 1 mole), sodium acetate (205 g; 2.5 mole), tetrabutylammonium bromide (10.9 g; 0.034 mole) and water (327 ml) were heated and stirred under reflux for 2 hours. On cooling m-Phenoxybenzyl acetate (241.5 g; 99.8% yield) separated as the upper layer. Its purity was 99%. m-Phenoxybenzyl acetate (242 g; 1 mole), sodium hydroxide (80 g; 2 mole), tetrabutylammonium bromide (12 g; 0.037 mole) and water (240 ml) were stirred at ambient temperature for 4 hours. The upper organic layer was dissolved in toluene (400 ml). The resulting solution was washed with water (2×200 ml) and treated with ion-exchange resin (Zerolit 236) and charcoal. Evaporation of the toluene gave the alcohol with a purity of 98.9% by gas chromatography (198 g, 99% yield).

reactant | m-Phenoxybenzyl chloride | 1 mole, 218.5 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | sodium acetate | 2.5 mole, 205 g | C(C)(=O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 0.034 mole, 10.9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 327 ml | O | H2O
product | m-Phenoxybenzyl acetate | 241.5 g, 99.8% yield | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
